US07411072B2
5-(3-fluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-(2-morpholin-4yl-ethyl)-1,3-dihydro-benzoimidazol-2-one
Following procedures essentially as described in Example 219, mix 1-(2-morpholin-4-yl-ethyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one (300 mg, 1.03 mmol), 11-bromomethylene-3-fluoro-6,11-dihydro-dibenzo[b,e]oxepine (E isomer, 330 mg, 1.08 mmol), 2N Na2CO3 (1.4 mL), dioxane (10 mL) and (Ph3P)4Pd (44 mg, 0.038 mmol). Purify the crude product by column chromatography using 40% THF/hexane to yield 80 mg title compound as a pale yellow powder. HPLC (ISO80-10M) t=1.84 (96%), MS (ES) 472 (M+1), 470 (M−1). H NMR (DMSO-d6)10.72 (s, 1H), 7.57 (m, 2H), 7.35 (t, 1H, J=7.5 Hz), 7.23 (t, 1H, J=7.5 Hz), 7.00 (d, 1H, J=7.5 Hz), 6.97 (s, 1H), 6.93 (d, 1H, J=8.4 Hz), 6.79 (td, 1H, J=11.9, 4.3 Hz), 6.73 (d, 1H, J=8.4 Hz), 6.60 (m, 2H), 5.82-4.79 (m, 2H), 3.80 (t, 2H, J=6.4 Hz), 3.46 (t, 4H, J=4.4 Hz), 2.48 (m, 2H), 2.38 (s, 4H).

reactant | 1-(2-morpholin-4-yl-ethyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one | 1.03 mmol, 300 mg | N1(CCOCC1)CCN1C(NC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C)=O | C19H28BN3O4
reactant | 11-bromomethylene-3-fluoro-6,11-dihydro-dibenzo[b,e]oxepine | 1.08 mmol, 330 mg | BrC=C1C2=C(OCC3=C1C=CC=C3)C=C(C=C2)F | C15H10BrFO
reactant | Na2CO3 | 2N, 1.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | (Ph3P)4Pd | 0.038 mmol, 44 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 5-(3-fluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-(2-morpholin-4yl-ethyl)-1,3-dihydro-benzoimidazol-2-one | 80 mg | FC=1C=CC2=C(OCC3=C(C2=CC2=CC4=C(N(C(N4)=O)CCN4CCOCC4)C=C2)C=CC=C3)C1 | C28H26FN3O3
